US07652022B2
Stage 92.3: 4-(4-Nitro-phenoxy)-1H-pyridin-2-one
A suspension of 2,4-dihydroxy-pyridine (2.33 g, 21 mmol), 4-fluoro-nitrobenzene (2.22 ml, 21 mmol) and Cs2CO3 (10.2 g, 31.3 mmol) in N-methyl-pyrrolidine (30 ml) is stirred for 3 h at 100° C. under N2-atmosphere. The reaction mixture is poured into water and the precipitate filtered off and washed with water. The solid is dissolved in CH2Cl2/MeOH. Then SiO2 (≈20 g) is added and the mixture Is concentrated in vacuo. The resulting powder is put on top of a SiO2-column and eluted with toluene/AcOEt 3:1→AcOEt→AcOEt/EtOH 9:1, yielding the title compound: m.p.: 227-228° C.; 1H-NMR (DMSO-d6): 11.60 (s, HN), 8.31 (d, 2H), 7.47 (d, 1H), 7.39 (d, 2H), 6.07 (dd, 1H), 5.67 (d, 1H).

reactant | 2,4-dihydroxy-pyridine | 21 mmol, 2.33 g | OC1=NC=CC(=C1)O | C5H5NO2
reactant | 4-fluoro-nitrobenzene | 21 mmol, 2.22 ml | FC1=CC=C(C=C1)[N+](=O)[O-] | C6H4FNO2
reactant | Cs2CO3 | 31.3 mmol, 10.2 g | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | water | O | H2O
solvent | N-methyl-pyrrolidine | 30 ml | CN1CCCC1 | C5H11N
product | 4-(4-Nitro-phenoxy)-1H-pyridin-2-one | [N+](=O)([O-])C1=CC=C(OC2=CC(NC=C2)=O)C=C1 | C11H8N2O4
